US07863293B2
Using General Procedure B, reacting of 3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridine-2-carbaldehyde, 4-[(5-chloro-3-methyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester and NaBH(OAc)3 in CH2Cl2 gave 4-((5-chloro-3-methyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-amino)-piperidine-1-carboxylic acid tert-butyl ester. 1H NMR (CDCl3): δ 1.22 (br, 2H), 1.44 (s, 9H), 1.59 (br, 2H), 1.60 (s, 6H), 2.27 (s, 3H), 2.47 (m, 3H), 3.34 (s, 2H), 3.65 (s, 2H), 4.03 (br, 2H), 6.87 (m, 4H), 7.18 (m, 1H), 7.36 (s, 1H), 7.82 (d, 1H, J=7.2 Hz), 8.21 (s, 1H), 8.48 (d, 1H, J=3.9 Hz). Deprotection with TFA using General Procedure F gave (5-chloro-3-methyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-piperidine-4-yl-amine as a white solid.

reactant | 3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridine-2-carbaldehyde | FC1=CC=C(C=C1)C(C)(C)C=1C(=NC=CC1)C=O | C15H14FNO
reactant | 4-[(5-chloro-3-methyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=NC=C(C=C1C)Cl | C17H26ClN3O2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-((5-chloro-3-methyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-amino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=NC=CC=C1C(C)(C)C1=CC=C(C=C1)F)CC1=NC=C(C=C1C)Cl | C32H40ClFN4O2
